US07534788B2
Step 1: 1-(5-Chloro-2-hydroxy-4-methoxy-phenyl)-ethanone
Chloro-2,4-dimethoxybenzene (4.94 g, 28.6 mmol) and AlCl3 (4.58 g, 1.2 eq.) were dissolved in 280 ml of CH2Cl2 and cooled down to 0° C. Acetyl chloride (2.03 mL, 1.0 eq.) was slowly added via syringe and the mixture allowed to react for another 3 h at ambient temperature. Pouring onto crashed ice, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by short flash chromatography (SiO2, hexane/AcOEt=95/5), yielded 4.22 g of the title compound as white crystals.

reactant | Chloro-2,4-dimethoxybenzene | 28.6 mmol, 4.94 g | ClC1=C(C=C(C=C1)OC)OC | C8H9ClO2
reactant | AlCl3 | 4.58 g, 1.2 eq. | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | Acetyl chloride | 2.03 mL, 1.0 eq. | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 280 ml | C(Cl)Cl | CH2Cl2
product | 1-(5-Chloro-2-hydroxy-4-methoxy-phenyl)-ethanone | 4.22 g | ClC=1C(=CC(=C(C1)C(C)=O)O)OC | C9H9ClO3
